Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
iodine / morphine / theophylline
 
Attending: ___.
 
Chief Complaint:
Right Sided Abdominal and Flank Pain 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ year old morbidly obese female with a past
medical history significant for anxiety, depression, 
degenerative
disc disease of the spine, gastric bypass x2, and history of
pancreatitis who presents to the ___ ED as a transfer from
___ due to an abnormal CT showing a right lower 
lobe
pleural based lung mass and a right upper lobe cavitary mass.

She initially presented to ___ w/RUQ/right flank pain radiating
to her back that was worse with movement. She reports that the
pain began a few days prior to presentation to ___. On the
morning of presentation, the pain intensified and she could not
move. Given her worsening symptoms, she presented to ___. At ___ she had a CT A/P
done and this showed a "pleural-based mass like opacity 
measuring
1.6x1.0cm that was only partially visualized". It also
demonstrated an unchanged umbilical hernia only containing fat,
previously cholecystectomy, no biliary dilation, +hepatic
steatosis, mildly enlarged liver, severe pancreatic atrophy
(unchanged), and stigmata of gastric bypasses. 

Given the findings on the CT A/P, a CT chest w/o contrast was
done showing a right lower lobe posterior medial pleural based
solid mass with ill definition of subjacent lung, a 20x20x12mm R
upper lobe anterior subpleural cavitary septated mass abutting
the minor fissure and anterior pleura 17x13mm. The impression 
was
read as "confirmed R lower lobe pleural based mass suspected to
be parenchymal in origin extending to the pleural space with R
upper lobe cavitary mass". The patient was subsequently
transferred to ___ for further infectious and oncologic work
up. 

In the ED at ___: 
- Initial vitals were: Temp 98.2 | HR 70 | BP 137/93 | RR 16 |
SpO2 100% RA 
- Exam was notable for: R flank tenderness, no periumbilical 
pain
- Labs were notable for: 
  * None obtained in ED at ___. 
  * Labs from LG @ 6am on ___:
    - WBC-8.0, HgB-13.6, Hct-43.0, Plt-208
    - Na-143, K-4.0, Cl-109, Co2-25, BUN-12, Cr-0.65,
    - Lipase 93
- Micro: None in ED at ___, UA was negative at ___  
- Studies were notable for: 
  * No studies performed at ___
  * CT Chest w/o Contrast @ ___: right lower lobe posterior
medial pleural based solid mass with ill definition of subjacent
lung, a 20x20x12mm R upper lobe anterior subpleural cavitary
septated mass abutting the minor fissure and anterior pleura
17x13mm. The impression was read as "confirmed R lower lobe
pleural based mass suspected to be parenchymal in origin
extending to the pleural space with R upper lobe cavitary mass".
- The patient was given: Oxycodone 5mg, Diazepam 5mg

On arrival to the floor, the patient was resting comfortably in
bed in no acute distress. She endorses the above history. She is
complaining of ___ abdominal pain at this time, but no nausea,
vomiting, diarrhea, constipation, melena, hematochezia, BM
changes, shortness of breath, chest pain, palpitations, or fever
(and has not had any of these during this episode). 

 
Past Medical History:
- Anxiety/depression
- ADHD
- Degenerative disc disease of the spine
- Chronic anemia ___ gastric bypass x2
- History of pancreatitis 
 
Social History:
___
Family History:
- Aunt w/ lymphoma 
- Aunt w/ cirrhosis (non-alcoholic)
- Dad w/ HTN and DM 
- Mom w/ ___ 
- Alzheimer's in multiple family members
- ___, anxiety and other psychiatric illness in multiple
family members 
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
VITALS: Reviewed in POE

___: Alert and interactive. In no acute distress. Morbidly
obese. 
HEENT: PERRL, EOMI. Sclera anicteric and without injection. Poor
dentition. MMM.
NECK: No cervical lymphadenopathy. No JVD. No thyromegaly. 
CARDIAC: Regular rhythm, normal rate. No murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
BACK: Mild right sided CVA tenderness.
ABDOMEN: obese, + bowels sounds, non distended, mildly tender to
palpation in epigastric region. 
EXTREMITIES: No edema. Pulses 
SKIN: Warm. Cap refill <2s. No rashes.
NEUROLOGIC: AOx3. 

DISCHARGE PHYSICAL EXAM 
=======================
24 HR Data (last updated ___ @ 2311)
    Temp: 98.3 (Tm 98.3), BP: 117/76 (111-122/76-80), HR: 77
(77-93), RR: 18 (___), O2 sat: 97% (95-100), O2 delivery: Ra  

___: Alert and interactive, appropriately conversational. In
no acute distress. Morbidly obese. 
HEENT: EOMI. Sclera anicteric and without injection. MMM.
CARDIAC: Regular rhythm, normal rate. No murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: obese, soft, non distended, mildly tender to
palpation in RUQ. open superficial wounds midline abdomen,
covered be sterile dressing with scant light brown discharge. 
EXTREMITIES: No edema.
SKIN: Warm. No new rashes.
NEUROLOGIC: Alert, oriented to hospitalization. 
 
Pertinent Results:
INTIAL LABS
===========
___ 01:16AM BLOOD WBC-5.7 RBC-4.62 Hgb-12.7 Hct-39.7 MCV-86 
MCH-27.5 MCHC-32.0 RDW-13.5 RDWSD-42.1 Plt ___
___ 01:16AM BLOOD ___ PTT-20.5* ___
___ 01:16AM BLOOD Plt ___
___ 01:16AM BLOOD Glucose-144* UreaN-11 Creat-0.5 Na-142 
K-3.9 Cl-105 HCO3-25 AnGap-12
___ 01:16AM BLOOD ALT-20 AST-17 LD(LDH)-167 AlkPhos-59 
TotBili-0.6
___ 01:16AM BLOOD Albumin-3.9 Calcium-9.0 Phos-4.1 Mg-1.8

RELEVANT IMAGING
================
CTA ___
- No evidence of pulmonary embolism. 
- 2 cm cavitating right upper lobe peripheral 
lesion-differentials include 
malignancy but this may be sequela of a prior inflammatory or 
infectious 
condition.  Active infectious process is hard to exclude 
although doubted; 
also, this is not a typical presentation of tuberculosis. 
-Ill-defined 15 mm right lower lobe peripheral nodular opacity.  
Given lack of  pulmonary embolism, infarct is unlikely.  This 
may be an inflammatory type of  pneumonitis such as organizing 
pneumonia or eosinophilic pneumonia.  Etiology  could also 
potentially be infectious infectious including possibility of  
atypical infectious process if the patient is immunosuppressed.  
Malignancy is not excluded. 
- Irregular 5 mm nodule in the medial right lower lobe that also 
should be 
followed with surveillance imaging. 
  
RECOMMENDATION(S):  Short-term follow-up CT is recommended to 
review these 
lesions within 3 months in addition to correlation with clinical 

circumstances.  Correlation with any prior imaging that may 
exist from before  ___ would also be very helpful if 
available. 

DISCHARGE LABS
============== 
___ 06:08AM BLOOD WBC-8.2 RBC-5.03 Hgb-14.0 Hct-44.1 MCV-88 
MCH-27.8 MCHC-31.7* RDW-14.1 RDWSD-45.0 Plt ___
___ 06:08AM BLOOD Glucose-91 UreaN-16 Creat-0.6 Na-141 
K-4.3 Cl-108 HCO3-22 AnGap-11
___ 06:08AM BLOOD Calcium-8.8 Phos-3.7 Mg-2.0
___ 06:20AM BLOOD ANCA-NEGATIVE B
___ 06:20AM BLOOD RheuFac-<10 ___ CRP-1.5
___ 07:00PM BLOOD QUANTIFERON-TB GOLD-PND
___ 06:20AM BLOOD ASPERGILLUS GALACTOMANNAN ANTIGEN-PND
___ 06:20AM BLOOD B-GLUCAN-PND
 
Brief Hospital Course:
TRANSITIONAL ISSUES
===================
[ ] The patient was found to have a lung mass on CT scan 
performed for back/pleural pain. Follow up was recommended with 
interval imaging and inpatient biopsy was not recommended by our 
expert consultants. The patient did not wish to be seen in 
follow up with pulmonology at ___ as it was too far away. 
Please arrange repeat imaging in 4 weeks and follow up with 
pulmonary thereafter. 
[ ] Reimage in 4 weeks (early ___ imaging showed
 - 2 cm cavitating right upper lobe peripheral lesion
 - Ill-defined 15 mm right lower lobe peripheral nodular opacity
 - Irregular 5 mm nodule in the medial right lower lobe
[ ] Check on superficial, chronic abdominal wounds. Our wound 
care team recommended:
 -Commercial wound cleanser or normal saline to cleanse wounds.
 -Pat the tissue dry with dry gauze.
 -Apply Aquacel Ag advantage to wound bed. 
 -lightly moisten with normal saline. 
 -Cover with 4X4
 -cover with ABD pad
 -Secure with Medipore tape.
[ ] PND lab results at discharge: B glucan, Galactomannan, Quant 
Gold TB 

SUMMARY
===================
Ms. ___ is a ___ year old woman who presents to the ___ ED 
as a transfer from ___ due to an abnormal CT 
showing a right lower lobe pleural based lung mass and a right 
upper lobe cavitary mass, thought to be due to infectious vs. 
inflammatory process, without need to biopsy inpatient. 
Recommend outpatient follow up with reimaging in 4 weeks. 

ACUTE/ACTIVE ISSUES:
====================
# 2 cm cavitating right upper lobe peripheral lesion
# right lower lobe peripheral nodular opacity
# Irregular 5 mm nodule in the medial right lower lobe 
The patient presented to an outside hospital with right flank 
pain, and was found to have a right lower lobe pleural based 
lung mass and a right upper lobe cavitary mass. The differential 
for the patient's infection includes malignancy, infection and 
autoimmune conditions. The patient does have a family history of 
lymphoma, which given her age, makes lymphoma high on the 
differential. The patient does not have any fevers or 
leukocytosis to suggest pneumonia or another infectious process. 
She has no identified TB risk factors; however, we ordered quant 
TB, which was pending on discharge. The patient does not have a 
personal or family history of autoimmune disease, but certain 
conditions, such as sarcoid, could manifest with lung 
involvement; CRP, ANCA, ___, RF wnl. Galactomannan, B glucan PND 
on discharge. Pulmonology was consulted to consider potential 
etiologies of lung masses and further workup, and with ___, we 
determined that there was no need for inpatient workup -- she 
will follow up with her PCP who will schedule repeat imaging in 
approx. 4 weeks. 

# Flank Pain 
Patient presented with persistent periumbilical and RLQ pain 
radiating to her back. She has a history of gallstones status 
post cholecystectomy as well as a history of pancreatitis. CT 
from OSH showed severe pancreatic atrophy (unchanged), but no 
biliary dilation, renal calculi, colitis, or other clear 
etiology of patients pain. Lipase 93 at OSH. No changes in BMs, 
no N/V, no infectious signs/symptoms or evidence of infection on 
lab work. Pain could be secondary to RLL pleural mass. Pain was 
controlled with acetaminophen PRN and oxycodone PRN. She was 
transitioned off the oxycodone and placed back onto her home 
tramadol to good effect. 

CHRONIC/STABLE ISSUES:
======================
# Depression/Anxiety 
Patient continued on her home medications. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Diazepam ___ mg PO DAILY:PRN anxiety 
2. Cyclobenzaprine 10 mg PO HS:PRN muscle spasm 
3. Nystatin Cream 1 Appl TP DAILY 
4. Topiramate (Topamax) 200 mg PO DAILY 
5. ZOLMitriptan 5 mg oral DAILY:PRN headache 
6. TraMADol 50 mg PO Q6H:PRN Pain - Moderate 
7. Aimovig Autoinjector (erenumab-aooe) 70 mg/mL subcutaneous 
monthly 
8. Naproxen 500 mg PO BID:PRN Pain - Mild 

 
Discharge Medications:
1.  Aimovig Autoinjector (erenumab-aooe) 70 mg/mL subcutaneous 
monthly  
2.  Cyclobenzaprine 10 mg PO HS:PRN muscle spasm  
3.  Naproxen 500 mg PO BID:PRN Pain - Mild  
4.  Nystatin Cream 1 Appl TP DAILY  
5.  Topiramate (Topamax) 200 mg PO DAILY  
6.  TraMADol 50 mg PO Q6H:PRN Pain - Moderate  
7.  ZOLMitriptan 5 mg oral DAILY:PRN headache  
8. HELD- Diazepam ___ mg PO DAILY:PRN anxiety  This medication 
was held. Do not restart Diazepam until you speak with your 
primary care doctor 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS 
==================
2 cm cavitating right upper lobe peripheral lesion
Right lower lobe peripheral nodular opacity
Irregular 5 mm nodule in the medial right lower lobe 

SECONDARY DIAGNOSIS
==================
Depression/Anxiety 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

It was a pleasure taking care of you at the ___ 
___!  

Why was I admitted to the hospital?  
- You were admitted because you had significant right-sided 
abdominal pain, and was found on imaging to have lung lesions 
concerning for an infectious or inflammatory process. 

What happened while I was in the hospital?  
- Your images were reviewed by a team of pulmonologists and 
radiologists, who ultimately determined that there was no 
evidence of an acute process requiring biopsy or intervention in 
the hospital. Please follow up with your primary care doctor for 
imaging of these lesions in 4 weeks (early ___. 

What should I do after leaving the hospital?  
-  Please take your medications as listed in discharge summary 
and follow up at the listed appointments. 

Thank you for allowing us to be involved in your care, we wish 
you all the best!  

Sincerely,

Your ___ Healthcare Team
 
Followup Instructions:
___